US07674809B2
1a) 2-phenyl-6-aminobenzothiazole
2-Phenyl-6-nitrobenzothiazole (73.5 g, 0.286 mol) is added to tin dichloride (200.74 g, 0.89 mol) in 37% HCl (300 ml). The mixture is heated at 100° C. for 40 minutes. The resulting mixture is cooled and aqueous ammonia (pH=10) is added dropwise. The product is extracted with chloroform and the extracts are concentrated. The solid is recrystallized from isopropyl ether/hexane (2/1). Yield: 29.9 g (46%); Rf (9/1 chloroform/methanol): 0.68; m.p.: 199.8-201.1° C.; IR (KBr): 3450, 3305, 3190, 1619 cm−1.

reactant | 2-Phenyl-6-nitrobenzothiazole | 0.286 mol, 73.5 g | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C13H8N2O2S
reactant | tin dichloride | 0.89 mol, 200.74 g | [Sn](Cl)Cl
reactant | ammonia | pH=10 | N | H3N
solvent | HCl | 300 ml | Cl | ClH
product | 2-phenyl-6-aminobenzothiazole | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)N | C13H10N2S
